US08445501B2
1-Bromo-2-cyclopropylmethoxy-4-methoxy-benzene
Starting from commercially available 2-bromo-5-methoxy-phenol and bromomethyl-cyclopropane the title compound is obtained as colorless solid.

reactant | 2-bromo-5-methoxy-phenol | BrC1=C(C=C(C=C1)OC)O | C7H7BrO2
reactant | bromomethyl-cyclopropane | BrCC1CC1 | C4H7Br
product | 1-Bromo-2-cyclopropylmethoxy-4-methoxy-benzene | BrC1=C(C=C(C=C1)OC)OCC1CC1 | C11H13BrO2
